US06353006B1
4-Iodo-2-n-propylaniline was converted into 4-iodo-2-n-propylphenyl isothiocyanate in a manner analogous to Method A2b. Concurrently, 1-amino-1-(hydroxymethyl)cyclopentane was converted to the chloromethyl analogue, then reacted with the isothiocyanate in a manner analogous to Method C2a to give 2-(4-iodo-2-propylphenylimino)-3-thia-1-azaspiro[4.4]nonane. A slurry of 2-(4-iodo-2-propylphenylimino)-3-thia-1-azaspiro[4.4]nonane (0.54 g, 1.35 mmol) and CuCN (0.24 g, 2.70 mmol) in DMF (4 mL) was heated at 140° C. overnight. The resulting mixture was cooled to room temp, concentrated under reduced pressure and purified by flash chromatography (10% EtOAc/hex) to give 2-(4-cyano-2-propylphenylimino)-3-thia-1-azaspiro[4.4]nonane as a white solid (0.26 g, 65%): TLC (30% EtOAc/hex) Rf0.37.

reactant | 2-(4-iodo-2-propylphenylimino)-3-thia-1-azaspiro[4.4]nonane | 1.35 mmol, 0.54 g | IC1=CC(=C(C=C1)N=C1NC2(CS1)CCCC2)CCC | C16H21IN2S
reactant | CuCN | 2.70 mmol, 0.24 g | C(#N)[Cu]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-(4-cyano-2-propylphenylimino)-3-thia-1-azaspiro[4.4]nonane | 0.26 g, 65% | C(#N)C1=CC(=C(C=C1)N=C1NC2(CS1)CCCC2)CCC | C17H21N3S
